US04138258
By refluxing an ethanol solution of 1,4-dihydroxy-2-naphthoic acid under heating and passing hydrogen chloride gas through the solution for 5 hours, 1-hydroxy-ethoxy-2-naphthoic acid having a melting point of 190-195° C was obtained.

reactant | 1,4-dihydroxy-2-naphthoic acid | OC1=C(C=C(C2=CC=CC=C12)O)C(=O)O | C11H8O4
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 1-hydroxy-ethoxy-2-naphthoic acid | OC(C)OC1=C(C=CC2=CC=CC=C12)C(=O)O | C13H12O4
